* CTLE design-space sweep 2 — bridging-cap topology.
* Ldeg (degeneration R, sets the boost) x Wcap (bridging MIM, sets the zero),
* at two load resistances.
.lib /home/ttuser/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.include ctle_p2.inc

.param vcm=0.9
.param vb=0.9
.param cload=50f
.param rch=500 cch=1p

VDD  VDD 0 1.8
VSS  VSS 0 0
Vb   vbias 0 'vb'

Vsp  srcp 0 dc 'vcm' ac 0.5 0
Vsm  srcm 0 dc 'vcm' ac 0.5 180
Rchp srcp inp 'rch'
Rchm srcm inm 'rch'
Cchp inp 0 'cch'
Cchm inm 0 'cch'

x1 outp outm inp inm VDD VSS vbias ctle_p2

Clp outp 0 'cload'
Clm outm 0 'cload'

.options method=gear reltol=1e-4 abstol=1e-13 vntol=1e-7

.control
  foreach lld 16 12
    foreach ldg 0.69 1.5 3.0 5.0
      foreach wc 10 13 17
        alterparam Lload = $lld
        alterparam Ldeg  = $ldg
        alterparam Wcap  = $wc
        reset
        op
        let id1   = @m.x1.xm1.msky130_fd_pr__nfet_01v8[id]
        let gm1   = @m.x1.xm1.msky130_fd_pr__nfet_01v8[gm]
        let rdeg  = (v(x1.sp)-v(x1.st))/id1
        let rload = (1.8-v(outp))/id1
        let gmrs  = gm1*rdeg
        let voutcm = v(outp)
        let vsp = v(x1.sp)
        let vst = v(x1.st)
        let vdsat_tail = @m.x1.xm2.msky130_fd_pr__nfet_01v8[vdsat]
        ac dec 60 1e5 3e10
        let gdb  = db(v(outp)-v(outm))
        let gind = db(v(inp)-v(inm))
        wrdata tmp.dat gdb gind
        shell echo "#PT Lload $lld Ldeg $ldg Wcap $wc"
        shell cat tmp.dat
        echo "OPX Lload $lld Ldeg $ldg Wcap $wc"
        print id1 gm1 rdeg rload gmrs voutcm vsp vst vdsat_tail
        destroy all
      end
    end
  end
  shell rm -f tmp.dat
.endc
.end
